US06326359B1
6-(Phenethylamino)-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile
Potassium cyanide (5.6 g, 86.2 mmol) was added to a stirred solution of 2-(methylsulfonyl)-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine (21.0 g, 43.1 mmol) (preparation 43) in N,N-dimethylformamide (100 ml). The reaction mixture was heated at 110° C. for 74 hr with extra potassium cyanide being added at 44 hr (3.3 g, 50.8 mmol) and 68 hr (1.2 g, 18.5 mmol). The reaction mixture was allowed to stand at room temperature for 70 hr, then poured into water (500 ml), extracted with diethyl ether (1000 ml) and the aqueous layer washed with diethyl ether (500 ml). The combined organic layers were washed with water (3×500 ml). The solvent was removed under reduced pressure from the combined organic layers to give a residue which was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (99:1) to give the title compound (10.2 g) as a brown solid. MS: 349 (MH+).

reactant | Potassium cyanide | 86.2 mmol, 5.6 g | [C-]#N.[K+]
reactant | 2-(methylsulfonyl)-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 43.1 mmol, 21.0 g | CS(=O)(=O)C1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCCC1=CC=CC=C1 | C19H23N5O3S
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-(Phenethylamino)-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile | 10.2 g | C(CC1=CC=CC=C1)NC1=C2N=CN(C2=NC(=N1)C#N)C1OCCCC1 | C19H20N6O
